US08466186B2
(a) (3-Amino-2,4-dichloro-benzyl)-carbamic acid tert-butyl ester
Boc2O (1.48 g, 6.68 mmol) in 3.3 mL DCM was added at 0° C. to a mixture of 3-amino-2,4-dichloro-benzylamine (1.16 g, 6.07 mmol), 6.7 mL DCM and 12.1 mL 1 N NaOH-solution. The mixture was stirred vigourously for 2d and diluted with 5% aq NH3-solution. The organic phase was separated and the aq. phase was washed 2× with DCM. The combined organic phase was washed with brine, dried with Na2SO4, filtered and concentrated to give the sub-title compound.

reactant | Boc2O | 6.68 mmol, 1.48 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-amino-2,4-dichloro-benzylamine | 6.07 mmol, 1.16 g | NC=1C(=C(CN)C=CC1Cl)Cl | C7H8Cl2N2
reactant | NaOH | 1 N, 12.1 mL | [OH-].[Na+]
solvent | DCM | 3.3 mL | C(Cl)Cl | CH2Cl2
solvent | NH3 | N | H3N
solvent | DCM | 6.7 mL | C(Cl)Cl | CH2Cl2
product | (3-Amino-2,4-dichloro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=C(C=C1)Cl)N)Cl)=O | C12H16Cl2N2O2
